US06448242B1
Under ice cooling, calcium chloride (968 mg; 8.8 mmol) and sodium borohydride (668 mg; 17 mmol) were added to a solution in tetrahydrofuran-ethanol (9 ml-14 ml) of methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)-methyl]acetate (1.0 g; 2.1 mmol) synthesized by the process described in Referential Example 3, and the mixture was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure, and the resultant concentrated residue was dissolved in chloroform. The solution was washed successively with 3N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 900 mg (yield: 96%) of 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]ethyl alcohol as a colorless oil.

reactant | calcium chloride | 8.8 mmol, 968 mg | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 17 mmol, 668 mg | [BH4-].[Na+]
reactant | methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)-methyl]acetate | 2.1 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C(=O)OC)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H44N2O6
solvent | tetrahydrofuran-ethanol | 9 ml-14 ml | O1C(CCC1)CCO | C6H12O2
product | 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]ethyl alcohol | 900 mg, yield: 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CO)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H44N2O5
